US05994376
A mixture of 1-[[1-(3,4-dimethoxyphenyl)cyclopropyl]methyl]-1,3-dihydro-2H-imidazol-2-one (1.9 g) in DMF (20 ml) was stirred at RT. Sodium hydride (60%) (0.28 g) was added portionwise over 15 minutes. The mixture was stirred for 30 minutes. A solution of bromomethylbenzene (1.45 g) in DMF (5 ml) was added dropwise over 15 minutes. The reaction mixture was stirred for 1 hour. The solvent was evaporated. The residue was purified over silica gel on a glass filter (eluent: CH2Cl2 /CH3OH 95/5). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from diethyl ether (20 ml). The precipitate was filtered off and dried, yielding 1.3 g (51%) of 1-[[1-(3,4-dimethoxyphenyl)cyclopropyl]methyl]-1,3-dihydro-3-(phenylmethyl)-2H-imidazol-2-one (comp. 21; mp 110.5° C.).

reactant | 1-[[1-(3,4-dimethoxyphenyl)cyclopropyl]methyl]-1,3-dihydro-2H-imidazol-2-one | 1.9 g | COC=1C=C(C=CC1OC)C1(CC1)CN1C(NC=C1)=O | C15H18N2O3
reactant | Sodium hydride | 0.28 g | [H-].[Na+]
reactant | bromomethylbenzene | 1.45 g | BrCC1=CC=CC=C1 | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-[[1-(3,4-dimethoxyphenyl)cyclopropyl]methyl]-1,3-dihydro-3-(phenylmethyl)-2H-imidazol-2-one | 1.3 g, 51% | COC=1C=C(C=CC1OC)C1(CC1)CN1C(N(C=C1)CC1=CC=CC=C1)=O | C22H24N2O3
